US06753414B2
Dry 1,2,3,4-O-tetraacetyl-L-arabinose (18.3 g, 57.5 mmol) was dissolved in dry CH2Cl2 (200 mL) and was cooled to −78° C. Thiophenol (6.5 mL, 63.3 mmol) was added followed by addition of SnCl4 (1M, 17.3 mL, 17.3 mmol). The reaction solution was stirred at −78° C. for 6 hours until the disappearance of the starting material in TLC. Saturated aqueous NaHCO3 (100 mL) was added. The organic layer was separated and the water layer was extracted with CH2Cl2 (30 mL) three times. The combined organic layer was washed with brine and dried over Na2SO4. The solvent was removed and the product was purified by silica gel column chromatography to afford thiophenyl-2,3,4-O-triacetyl-L-arabinose (16.95 g, 80%). Thiophenyl-2,3,4-O-triacetyl-L-arabinose (8.88 g, 24.1 mmol) was dissolved in MeOH (120 mL) followed by the addition of sodium methoxide (65 mg, 2 mmol ). The reaction solution was stirred at 25° C. for three hours, then saturated aqueous NH4Cl was added. The organic layer was separated and the water layer was extracted with CH2Cl2 (30 mL) three times. The combined organic layer was washed with brine and dried over Na2SO4. The solvent was removed and the product was purified by silica gel column chromatography to afford 22 (5.53 g, 22.9 mmol, 95%)

reactant | 1,2,3,4-O-tetraacetyl-L-arabinose | 57.5 mmol, 18.3 g | C(C)(=O)C(=O)[C@](O)([C@@](O)([C@@H](OC(C)=O)CO)C(C)=O)C(C)=O | C13H18O9
reactant | Thiophenol | 63.3 mmol, 6.5 mL | C1(=CC=CC=C1)S | C6H6S
reactant | SnCl4 | 17.3 mmol, 1M, 17.3 mL | Cl[Sn](Cl)(Cl)Cl
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | thiophenyl-2,3,4-O-triacetyl-L-arabinose | 16.95 g, 80% | S1C(=CC=C1)C(=O)[C@](O)([C@@](O)([C@@H](OC(C)=O)CO)C(C)=O)C(C)=O | C15H18O8S
